US05760032
Reaction was carried out in the same manner as in Example 186 using trans-3-(2-nitrophenyl)propenoic acid (1.93 g), 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.42 g), triethylamine (5.6 ml) and 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate (Bop reagent, 4.42 g), and the obtained crude crystals were recrystallized from ethyl acetate to give 3.65 g of trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-(2-nitrophenyl)propenamide.

reactant | trans-3-(2-nitrophenyl)propenoic acid | 1.93 g | [N+](=O)([O-])C1=C(C=CC=C1)/C=C/C(=O)O | C9H7NO4
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate | 4.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
product | trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-(2-nitrophenyl)propenamide | 3.65 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(\C=C\C2=C(C=CC=C2)[N+](=O)[O-])=O)C=CC=C1 | C26H22ClN5O4S
